US09102654B2
3-Chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine (1d)
A 100 mL 3-neck round bottom flask was charged with N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide (475 mg, 2.01 mmol) and tetrahydrofuran (10 mL). borontrifluoride etherate (0.63 mL, 5.02 mmol) was added and the mixture was stirred for 15 minutes to give a suspension. Sodium borohydride (228 mg, 6.02 mmol) was added and the reaction was heated at 60° C. for 4 hours, at which point thin layer chromatography analysis [Eluent: ethyl acetate, sample was prepared by treatment of reaction mixture with hydrochloric acid, followed by sodium bicarbonate basification and ethyl acetate extraction] indicated that the reaction was complete. Water (10 mL) and concentrated hydrochloric acid (1 mL) were added and the reaction was heated at 60° C. for 1 hour. The reaction mixture was cooled to room temperature and distilled to remove tetrahydrofuran. The mixture was neutralized with saturated aqueous sodium bicarbonate to pH˜8 to afford a suspension, which was stirred for 1 hour and filtered. The filter cake was rinsed with water (10 mL) and dried under vacuum to afford a white solid (352 mg, 79%): mp 93-96° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.99 (d, J=2.7 Hz, 1H), 8.44 (dd, J=4.6, 1.4 Hz, 1H), 8.10 (ddd, J=8.4, 2.7, 1.4 Hz, 1H), 8.06 (s, 1H), 7.50 (dd, J=8.4, 4.7 Hz, 1H), 4.63 (t, J=6.0 Hz, 1H), 3.06-2.92 (m, 2H), 1.18 (t, J=7.1 Hz, 3H); 13C NMR (101 MHz, DMSO-d6) δ 146.17, 138.31, 135.81, 132.82, 130.84, 124.10, 123.96, 112.23, 40.51, 14.28; EIMS m/z 222 ([M]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)acetamide | 2.01 mmol, 475 mg | ClC1=NN(C=C1NC(C)=O)C=1C=NC=CC1 | C10H9ClN4O
reactant | borontrifluoride etherate | 5.02 mmol, 0.63 mL | B(F)(F)F.CCOCC
reactant | Sodium borohydride | 6.02 mmol, 228 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | Water | 10 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-Chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-4-amine | 352 mg, 79% | ClC1=NN(C=C1NCC)C=1C=NC=CC1 | C10H11ClN4
